US08084489B2
A solution of i-Pr2NH (1.26 mL, 9.20 mmol) in THF (35 mL) at −78° C. is treated with n-BuLi (5.6 mL, 1.6M, 9.0 mmol) over the course of 3 minutes. The solution is warmed to rt for 10 min., then recooled to 78° C. Ethyl 2-thiophene carboxylate (1.00 mL, 7.44 mmol) is added dropwise and the resulting solution is stirred for 15 min., then isobutyraldehyde (0.81 mL, 9.14 mmol) is added and the reaction is warmed to rt and stirred overnight. The resulting solution is quenched with saturated NH4Cl (25 mL) and extracted with EtOAc (2×50 mL). Combined extracts are washed with H2O, brine, dried over MgSO4, filtered, and concentrated. The residue is loaded onto silica gel and eluted with hexanes using a gradient of 0% to 30% EtOAc giving 5-(1-hydroxy-2-methyl-propyl)-thiophene-2-carboxylic acid ethyl ester (1.25 g, 73%) as a yellow oil. MS (ES): 211.1 [M+H−H2O]+.

reactant | i-Pr2NH | 9.20 mmol, 1.26 mL | N(C(C)C)C(C)C | C6H15N
reactant | n-BuLi | 9.0 mmol, 1.6M, 5.6 mL | [Li]CCCC
reactant | Ethyl 2-thiophene carboxylate | 7.44 mmol, 1.00 mL | S1C(=CC=C1)C(=O)OCC | C7H8O2S
reactant | isobutyraldehyde | 9.14 mmol, 0.81 mL | C(C(C)C)=O | C4H8O
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 5-(1-hydroxy-2-methyl-propyl)-thiophene-2-carboxylic acid ethyl ester | 1.25 g, 73% | C(C)OC(=O)C=1SC(=CC1)C(C(C)C)O | C11H16O3S
